US04208517
(b) (6R,7R)-3-Acetoxymethyl-7-[Z-2-{1,3-dimethylureidocarbonylprop-2-yloxyimino}-2-(fur-2-yl)acetamido]-ceph-3-em-4-carboxylic acid
This compound was prepared from 1-(2-bromo-2-methylpropionyl)-1,3-dimethylurea and (6R,7R)-3-acetoxymethyl-7-[Z-2-(fur-2-yl)-2-hydroxyiminoacetamido]-ceph-3-em-4-carboxylic acid sodium salt by the method described in Example 1. Yield 73%, λmax (EtOH) 274 nm (ε12,500), νmax (Nujol) 3300 (NH), 3700-2100 (bonded OH), 1789 (β-lactam), 1730 (CO2H), 1685, 1535 (CONH), τ(DMSO d6) 0.18 (CONH), 2.11, 3.28, 3.31 (furyl), 4.11, (7H), 4.77 (6H), 4.97, 6.29 (3--CH2), 6.29, 6.49 (2--CH2), 6.75 (NMe), 7.28 (NHMe), 7.93 (OAc), 8.41 (CMe2).

reactant | 1-(2-bromo-2-methylpropionyl)-1,3-dimethylurea | BrC(C(=O)N(C(=O)NC)C)(C)C | C7H13BrN2O2
reactant | (6R,7R)-3-acetoxymethyl-7-[Z-2-(fur-2-yl)-2-hydroxyiminoacetamido]-ceph-3-em-4-carboxylic acid sodium salt | [Na+].C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)[O-])C([C@H]2NC(\C(=N/O)\C=2OC=CC2)=O)=O
reactant | EtOH | CCO | C2H6O
solvent | DMSO | CS(=O)C | C2H6OS
product | (6R,7R)-3-Acetoxymethyl-7-[Z-2-{1,3-dimethylureidocarbonylprop-2-yloxyimino}-2-(fur-2-yl)acetamido]-ceph-3-em-4-carboxylic acid | Yield 73% | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C([C@H]2NC(\C(\C=2OC=CC2)=N/OC(C)CC(=O)N(C(=O)NC)C)=O)=O | C23H27N5O10S
